US07064215B2
KHMDS (1.1 equivalent) was added to a THF solution of 1-methylpiperidin-3-ol (1 equivalent) at 0° C. and stirred until H2 evolution ceased. 1-fluoro-4-nitrobenzene (1 equivalent) was then added and the solution was allowed to warm to room temperature. After 2 hours, water was added and the mixture was extracted with EtOAc (3×). The combined organic extracts were dried over Na2SO4, and concentrated in vacuo to give a bright yellow oil which was directly used in the reduction step. The oil (1 equivalent) and a catalytic amount of 10% Pd/C were suspended in anhydrous EtOH at room temperature. The reaction flask was evacuated and subsequently filled with H2. After stirring for 18 hours, the mixture was filtered through Celite, and the solvent was concentrated in vacuo to yield 4-(1-methyl-3-piperidyloxy)phenylamine. LC/MS (m/z) 207.2 (MH+), Rt 0.47 minutes.

reactant | KHMDS | 1.1 equivalent | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | THF | C1CCOC1 | C4H8O
reactant | 1-methylpiperidin-3-ol | 1 equivalent | CN1CC(CCC1)O | C6H13NO
reactant | 1-fluoro-4-nitrobenzene | 1 equivalent | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
solvent | water | O | H2O
product | 4-(1-methyl-3-piperidyloxy)phenylamine | CN1CC(CCC1)OC1=CC=C(C=C1)N | C12H18N2O
